US04039543
A suspension of 0.77 g. of sodium hydride (50% suspension in oil) and 2.28 g. of dimethylsulfone in 28 ml. of dimethylsulfoxide was stirred with the exclusion of moisture and under nitrogen for 2 hours at 50° C. 2 G. of methyl 3,5-bis(dimethylamino)-4-(N-methylacetamido)benzoate were then added, the mixture heated to 70° C. for a short time and stirred for a further 2 hours without heating. The solution was diluted with 100 ml. of ice water, washed with 100 ml. of low-boiling petroleum ether, the product extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. After purification of the residue over aluminum oxide with benzene and recrystallization from ethyl acetate/petroleum ether, there was obtained 2'.6'-bis(dimethylamino)-N-methyl-4'-[(methylsulfonyl)acetyl]acetanilide having a melting point of 130° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | methyl 3,5-bis(dimethylamino)-4-(N-methylacetamido)benzoate | CN(C=1C=C(C(=O)OC)C=C(C1N(C(C)=O)C)N(C)C)C | C15H23N3O3
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2'.6'-bis(dimethylamino)-N-methyl-4'-[(methylsulfonyl)acetyl]acetanilide | CN(C1=C(N(C(C)=O)C)C(=CC(=C1)C(CS(=O)(=O)C)=O)N(C)C)C | C16H25N3O4S
